US09193689B2
To a solution of 6-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-nicotinonitrile (350 mg, 1.51 mmol) and imidazole (236 mg, 3.47 mmol) in anhydrous DMF (3 mL) was added TBDMS chloride (295 mg, 1.96 mmol) in anhydrous DMF (2 mL) and the reaction mixture stirred for 16 h at RT. The reaction mixture was diluted with EtOAc (5 mL) and washed with water (10 mL) and brine (10 mL). The organic phase was separated, passed through a phase separation cartridge and concentrated in vacuo. The crude residue was purified on silica gel column chromatography eluting with 30% EtOAc/isohexane, and increasing the polarity to 50% EtOAc/isohexane to afford 6-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-piperazin-1-yl}-nicotinonitrile as a pale yellow solid (394 mg, 75%).

reactant | 6-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-nicotinonitrile | 1.51 mmol, 350 mg | OCCN1CCN(CC1)C1=NC=C(C#N)C=C1 | C12H16N4O
reactant | imidazole | 3.47 mmol, 236 mg | N1C=NC=C1 | C3H4N2
reactant | TBDMS chloride | 1.96 mmol, 295 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 6-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-piperazin-1-yl}-nicotinonitrile | 394 mg, 75% | C(C)(C)(C)[Si](OCCN1CCN(CC1)C1=NC=C(C#N)C=C1)(C)C | C18H30N4OSi
